US06794389B2
(1R,2S)-N-tert-Butoxycarbonyl-2-(2-chloro-6-methoxyquinazolin-4-yl)aminocyclohexylamine
A solution of 710 mg of 2,4-dichloro-6-methoxyquinazoline in 20 mL of methylene chloride was combined with 471 mg of triethylamine and 750 mg of (1S,2R)-2-tert-butoxycarbonylaminocyclohexylamine, and stirred at room temperature for 48 hours. After concentrating, the mixture was combined with water, extracted with methylene chloride, and dried. After solvent was distilled off, the residue was purified by column chromatography on silica gel (chloroform:methanol 20:1) to obtain 1.20 g of the desirable compound.

reactant | 2,4-dichloro-6-methoxyquinazoline | 710 mg | ClC1=NC2=CC=C(C=C2C(=N1)Cl)OC | C9H6Cl2N2O
reactant | triethylamine | 471 mg | C(C)N(CC)CC | C6H15N
reactant | (1S,2R)-2-tert-butoxycarbonylaminocyclohexylamine | 750 mg | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)N | C11H22N2O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (1R,2S)-N-tert-Butoxycarbonyl-2-(2-chloro-6-methoxyquinazolin-4-yl)aminocyclohexylamine | 1.20 g | C(C)(C)(C)OC(=O)N[C@H]1[C@H](CCCC1)NC1=NC(=NC2=CC=C(C=C12)OC)Cl | C20H27ClN4O3
